US07645760B2
1-Chloro-2-(2-methoxyethoxy)-4-methyl-5-nitrobenzene (300 mg; 1.22 mmol) in DMF (3 ml) was treated with tert.butoxy-bis(dimethylamino)methan (1.06 ml; 5.1 mmol) in DMF (13 ml) at 160° C. for 20 min. The reaction mixture was evaporated to dryness and taken up in THF (6 ml). NalO4 (1.6 g; 7.3 mmol) in water (25 ml) was added at room temperature within 0.5 h and after stirring for another 1 h, the reaction mixture was extracted with EtOAc twice. The combined organic phases were dried over Na2SO4 and evaporated to dryness to yield the intermediate 4-chloro-5-(2-methoxyethoxy)-2-nitrobenzaldehyde as brown solid (360 mg; quant.). 4-chloro-5-(2-methoxyethoxy)-2-nitrobenzaldehyde (360 mg; 1.22 mmol) and (methoxycarbonylmethylen)triphenylphosphoran (449 mg; 1.34 mmol) were refluxed for 1 h in toluene (20 ml). After cooling the reaction mixture, toluene (100 ml) was added and the resulting crystals filtered off and purified via chromatography (SiO2, TBME/hexanes 1/1) to yield the title compound as a cis-trans mixture (290 mg). Recrystallisation from hot TBME rendered the pure trans isomer (180 mg; 47%) as slightly yellow crystals.

reactant | 1-Chloro-2-(2-methoxyethoxy)-4-methyl-5-nitrobenzene | 1.22 mmol, 300 mg | ClC1=C(C=C(C(=C1)[N+](=O)[O-])C)OCCOC | C10H12ClNO4
reactant | tert.butoxy-bis(dimethylamino)methan | 5.1 mmol, 1.06 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
product | 4-chloro-5-(2-methoxyethoxy)-2-nitrobenzaldehyde | ClC1=CC(=C(C=O)C=C1OCCOC)[N+](=O)[O-] | C10H10ClNO5
